US08809333B2
A solution of ethyl (2R)-4-[4-(cyclohex-1-en-1-yl)-1H-pyrazol-1-yl]-2-methyl-2-(methylsulfonyl)butanoate (120 mg, 0.339 mmol, 1.0 eq) in MeOH (5 mL) was subjected to hydrogenation conditions (8-bar pressure, room temperature) on a Thales Nano H-cube using a 10% Pd/C catcart, (catalyst cartridge). The solution was then concentrated to give ethyl (2R)-4-(4-cyclohexyl-1H-pyrazol-1-yl)-2-methyl-2-(methylsulfonyl)butanoate (87 mg, 72% yield). LC-MS M+H+357.1.

reactant | ethyl (2R)-4-[4-(cyclohex-1-en-1-yl)-1H-pyrazol-1-yl]-2-methyl-2-(methylsulfonyl)butanoate | 0.339 mmol, 120 mg, 1.0 eq | C1(=CCCCC1)C=1C=NN(C1)CC[C@](C(=O)OCC)(S(=O)(=O)C)C | C17H26N2O4S
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | ethyl (2R)-4-(4-cyclohexyl-1H-pyrazol-1-yl)-2-methyl-2-(methylsulfonyl)butanoate | 87 mg, 72% yield | C1(CCCCC1)C=1C=NN(C1)CC[C@](C(=O)OCC)(S(=O)(=O)C)C | C17H28N2O4S
